US07531663B2
20 cm3 of sulphinyl chloride and one drop of dimethylformamide are added at a temperature in the region of 20° C. under an argon atmosphere to 1.39 g (4.53 mmol) of 3-carboxy-6-fluoro-1-(quinol-4-yl)-1H-indole. After stirring at reflux for 1 hour, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give 1.7 g of 3-chlorocarbonyl-6-fluoro-1-(quinol-4-yl)-1H-indole in the form of a cream solid which is used directly in the following step.

reactant | 3-carboxy-6-fluoro-1-(quinol-4-yl)-1H-indole | 4.53 mmol, 1.39 g | C(=O)(O)C1=CN(C2=CC(=CC=C12)F)C1=CC=NC2=CC=CC=C12 | C18H11FN2O2
reactant | sulphinyl chloride | 20 cm3 | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 3-chlorocarbonyl-6-fluoro-1-(quinol-4-yl)-1H-indole | 1.7 g | ClC(=O)C1=CN(C2=CC(=CC=C12)F)C1=CC=NC2=CC=CC=C12 | C18H10ClFN2O
